US04933355
5-(2-piperidinothiazol-4-ylmethylene)rhodanine-3-acetic acid
The reaction described in Example 1 was repeated. but using 1.8 g of 2-piperidinothiazole-4-carbaldehyde, 1.4 g of rhodanine-3-acetic acid, 1.0 g of ammonium chloride, 1 ml of 28% v/v aqueous ammonia and 40 ml of ethanol, giving the title compound as yellow needles.

reactant | 2-piperidinothiazole-4-carbaldehyde | 1.8 g | N1(CCCCC1)C=1SC=C(N1)C=O | C9H12N2OS
reactant | rhodanine-3-acetic acid | 1.4 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 1.0 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-(2-piperidinothiazol-4-ylmethylene)rhodanine-3-acetic acid | N1(CCCCC1)C=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)O)=O | C14H15N3O3S3
